US05639780
Step 1: Methyl 2-[(5-bromo-1-(4-bromobenzyl)-2-methyl-1H-indol-3-yl)methyl]benzoate
To a room temperature solution of N-(4-bromobenzyl)-N-(4-bromophenyl)hydrazine (335 mg, 0.941 mmol) and methyl 2-(3-oxobutyl)benzoate (202 mg, 0.98 mmol) in 6 mL dioxane was added 1.5 mL of 4N HCl solution in dioxane. Heated to 70° C. for 16 h, then concentrated, the residue was partitioned between EtOAc and water, then washed with 1M HCl and brine. Dried over sodium sulfate, filtered and concentrated. Purification by flash chromatography (40% CH2Cl2 /Hexanes) provided 195 mg of the title compound.

reactant | N-(4-bromobenzyl)-N-(4-bromophenyl)hydrazine | 0.941 mmol, 335 mg | BrC1=CC=C(CN(N)C2=CC=C(C=C2)Br)C=C1 | C13H12Br2N2
reactant | methyl 2-(3-oxobutyl)benzoate | 0.98 mmol, 202 mg | O=C(CCC1=C(C(=O)OC)C=CC=C1)C | C12H14O3
reactant | HCl | 4N, 1.5 mL | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-[(5-bromo-1-(4-bromobenzyl)-2-methyl-1H-indol-3-yl)methyl]benzoate | 195 mg | BrC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)Br)C)CC1=C(C(=O)OC)C=CC=C1 | C25H21Br2NO2
